US04031219
N,N-Bis-[3-(3,4-dihydro-1,3-dioxo-2-(1H)-isoquinolyl)-propyl]-methylamine was prepared analogous to Example 30 from 15 gm of isochroman-1,3-dione and N,N-bis-(3-amino-propyl)-methylamine. The hydrochloride was precipitated from acetone with ethereal hydrochloric acid and recrystallized from ethanol. M.p. of the hydrochloride: 202° -205° C; yield: 13.8 gm (32% of theory).

reactant | isochroman-1,3-dione | 15 gm | C1(OC(CC2=CC=CC=C12)=O)=O | C9H6O3
reactant | N,N-bis-(3-amino-propyl)-methylamine | NCCCN(CCCN)C | C7H19N3
product | N,N-Bis-[3-(3,4-dihydro-1,3-dioxo-2-(1H)-isoquinolyl)-propyl]-methylamine | O=C1N(C(CC2=CC=CC=C12)=O)CCCN(CCCN1C(C2=CC=CC=C2CC1=O)=O)C | C25H27N3O4
